US06693123B2
To a solution of [4-(pyrid-3-ylaminomethyl)-2-phenylbenzoyl]methionine methyl ester hydrochloride (72 mg, 0.16 mmol) in THF (3 mL) was added a solution of lithium hydroxide hydrate (13 mg, 0.32 mmol) in water (1 mL) and the reaction mixture was stirred for 30 minutes. The THF was evaporated in vacuo and the residue was taken up in aqueous 3N HCl. The solution was concentrated and the residue was purified by preparative HPLC (70% acetonitrile-0.1% aqueous trifluoroacetic acid) to give [4-(pyrid-3-ylaminomethyl)-2-phenylbenzoyl]methionine (39 mg, 50%). 1H NMR (300 MHz., DMSO-d6) δ 8.48 (d, 1H), 8.17 (m, 1H), 7.97 (m, 1H), 7.56 (m, 2H), 7.29-7.44 (m, 7H), 4.51 (bd, 2H), 4.48 (ddd, 1H), 2.24 (m, 2H), 1.99 (s, 3H), 1.85 (m, 2H). MS (CI NH3) m/e 436 (M+H)+, 418, 319, 287, 194, 165. Anal calcd for C24H25N3O3S (+1.26 TFA): C, 55.00; H, 4.57; N, 7.25. Found: C, 54.97; H, 4.58; N, 7.33.

reactant | [4-(pyrid-3-ylaminomethyl)-2-phenylbenzoyl]methionine methyl ester hydrochloride | 0.16 mmol, 72 mg | Cl.COC([C@@H](NC(C1=C(C=C(C=C1)CNC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O
reactant | lithium hydroxide hydrate | 0.32 mmol, 13 mg | O.[OH-].[Li+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | [4-(pyrid-3-ylaminomethyl)-2-phenylbenzoyl]methionine | 39 mg, 50% | N1=CC(=CC=C1)NCC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1)C1=CC=CC=C1 | C24H25N3O3S
